US07655671B2
Synthesis of 4,5α-epoxy-3-hydroxy-14β-methoxy-17,17-dimethyl-6-oxomorphinanium-iodide (compound 44)
A solution of 14-O-methyloxymorphone (Schmidhammer et al., J. Med. Chem. 1984, 27, pp. 1575-1579) (200 mg, 0.63 mmol) and methyl iodide (0.32 ml, 5.07 mmol) in acetonitrile (10 ml) was stirred for 21 hours under N2 at 50° C. (bath temperature). Then methyl iodide (0.2 ml, 3.17 mmol) was again added, stirred further for 24 h under the same conditions and evaporated down. The evaporation residue (324 mg of brown foamy resin) was crystallised out of MeOH (0.5 ml) and purified by recrystallisation out of MeOH. Yield: 244 mg (84%) of compound 44. Fp. 225-240° C.; IR (KBr): 1725 (C═O) cm−1; 1H-NMR (DMSO-d6): δ 9.55 (s, C3—OH), 6.69 (s, 2 arom. H, C1—H, C2—H), 4.94 (s, C5—H), 3.55 (s, +NCH3, axial), 3.38 (s, OCH3), 3.22 (s, +NCH3, equatorial); MS (CI): m/z 330 (M+).

reactant | 14-O-methyloxymorphone | CN1CC[C@]23[C@@H]4C(=O)CC[C@]2([C@H]1CC5=C3C(=C(C=C5)O)O4)OC | C18H21NO4
reactant | methyl iodide | 5.07 mmol, 0.32 ml | CI | CH3I
reactant | methyl iodide | 3.17 mmol, 0.2 ml | CI | CH3I
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4,5α-epoxy-3-hydroxy-14β-methoxy-17,17-dimethyl-6-oxomorphinanium-iodide | [I-].O1C2=C(C=CC=3C[C@@H]4[C@@]5(CCC([C@H]1[C@@]5(C23)CC[N+]4(C)C)=O)OC)O | InChI=1S/C19H23NO4.HI/c1-20(2)9-8-18-15-11-4-5-12(21)16(15)24-17(18)13(22)6-7-19(18,23-3)14(20)10-11;/h4-5,14,17H,6-10H2,1-3H3;1H/t14-,17+,18+,19-;/m1./s1
